US05556854
1-(2-Hydroxyethyl)-3,6-dimethyl-5,6,7,8-tetrahydro-1H-pyrido[4,3-d]pyrimidine-2,4-dione
3 g of 3,6-dimethyl-1-[2-(tetrahydropyran-2-yloxy)ethyl]-5,6,7,8-tetrahydro-1H-pyrido[4,3-d]pyrimidine-2,4-dione were dissolved in 150 ml of water and the pH was adjusted to 1 with conc. hydrochloric acid at 20°-25° C., with stirring. After stirring for 5 h at room temperature, 2 N sodium hydroxide solution was added dropwise to pH 8 and the reaction mixture was concentrated under reduced pressure. After azeotropic drying with ethanol, the residue was purified by chromatography on silica gel in a medium-pressure column with dichloromethane/methanol (volume ratio 85:15) and by recrystallization from dichloromethane/diethyl ether.

reactant | 3,6-dimethyl-1-[2-(tetrahydropyran-2-yloxy)ethyl]-5,6,7,8-tetrahydro-1H-pyrido[4,3-d]pyrimidine-2,4-dione | 3 g | CN1C(N(C2=C(C1=O)CN(CC2)C)CCOC2OCCCC2)=O | C16H25N3O4
reactant | hydrochloric acid | Cl | ClH
reactant | sodium hydroxide | 2 N | [OH-].[Na+]
solvent | water | 150 ml | O | H2O
product | 1-(2-Hydroxyethyl)-3,6-dimethyl-5,6,7,8-tetrahydro-1H-pyrido[4,3-d]pyrimidine-2,4-dione | OCCN1C(N(C(C2=C1CCN(C2)C)=O)C)=O | C11H17N3O3
